US05750531
Synthesis of 5,6-dimethyl-4-(N-methylphenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride
After N-methylaniline(0.5 ml, 4 mmol) was added to a mixture solution of 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine(0.64 g, 2 mmol) and dimethylformamide(10 ml), 0.16 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | N-methylaniline | 4 mmol, 0.5 ml | CNC1=CC=CC=C1 | C7H9N
reactant | 5,6-dimethyl-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)-4-chloropyrimidine | 2 mmol, 0.64 g | CC=1C(=NC(=NC1C)N1C(C2=C(CC1)C=CS2)C)Cl | C14H16ClN3S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5,6-dimethyl-4-(N-methylphenylamino)-2-(7-methyl-4,5,6,7-tetrahydrothieno[2,3-c]pyridin-6-yl)pyrimidine hydrochloride | 0.16 g, Yield: 20% | Cl.CC=1C(=NC(=NC1C)N1C(C2=C(CC1)C=CS2)C)N(C)C2=CC=CC=C2 | InChI=1S/C21H24N4S.ClH/c1-14-15(2)22-21(23-20(14)24(4)18-8-6-5-7-9-18)25-12-10-17-11-13-26-19(17)16(25)3;/h5-9,11,13,16H,10,12H2,1-4H3;1H
